US05977105
(2R)-1-(3'-Acetamidobiphenyl-4-yloxy)-4-(3-pyridyl)-2-butanol
Prepared according to the method described in Example 33a) from (2R)-1-(4-bromophenoxy)-4-(3-pyridyl)-2-butanol (0.50 g), 3-acetamidobenzeneboronic acid (0.38 g) and tetrakis(triphenylphosphine)palladium(0) (0.045 g) in ethanol (1.7 ml), aqueous sodium carbonate solution (2 M, 1.55 ml) and toluene (6.9 ml) with heating at reflux for 1 hour. The residue obtained after work-up was purified by column chromatography over silica eluting with dichloromethane:methanol (92:8) to give the title compound (0.52 g) as an oil which crystallised from ethyl acetate and was recrystallised from isohexane/ethyl acetate.

reactant | (2R)-1-(4-bromophenoxy)-4-(3-pyridyl)-2-butanol | 0.50 g | BrC1=CC=C(OC[C@@H](CCC=2C=NC=CC2)O)C=C1 | C15H16BrNO2
reactant | 3-acetamidobenzeneboronic acid | 0.38 g | C(C)(=O)NC=1C=C(C=CC1)B(O)O | C8H10BNO3
solvent | ethanol | 1.7 ml | C(C)O | C2H6O
solvent | sodium carbonate | 2 M, 1.55 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 6.9 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.045 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (2R)-1-(3'-Acetamidobiphenyl-4-yloxy)-4-(3-pyridyl)-2-butanol | 0.52 g | C(C)(=O)NC=1C=C(C=CC1)C1=CC=C(C=C1)OC[C@@H](CCC=1C=NC=CC1)O | C23H24N2O3
